US04665070
Molar quantities of butyric acid and butyryl chloride are heated together on a water-bath for 1 hour and then boiled for 7 hours in an oil-bath. Butyric anhydride, b.p. 198°-199° C./765 mm, is obtained on distillation of the resulting mixture.

reactant | butyric acid | C(CCC)(=O)O | C4H8O2
reactant | butyryl chloride | C(CCC)(=O)Cl | C4H7ClO
product | Butyric anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
